US05541213
1-(6-Chloropyridin-2-yl)-2-(pyridin-2-yl)ethyl alcohol
50.2 g of 2-picoline was dissolved in 1363 ml of tetrahydrofuran and 237.2 ml of a 2.5M solution of n-butyllithium in hexane was added to the obtained solution at -50° C. in a nitrogen stream. The obtained mixture was stirred at that temperature for 50 minutes, followed by the addition thereto of a solution of 76.2 g of 6-chloro-2-pyridinecarbaldehyde in 1363 ml of tetrahydrofuran at -50° C. The obtained mixture was stirred at that temperature for 30 minutes and brought to 0° C. at room temperature. Water was added to the resulting mixture to terminate the reaction. Ethyl acetate and water were added to the obtained mixture to conduct extraction. The ethyl acetate phase was washed with a saturated aqueous solution of common salt, dried over anhydrous sodium sulfate, and concentrated. The residue was purified by silica gel chromatography (with a hexane/ethyl acetate (2:1) mixture) to give 38.7 g of the title compound.

reactant | 2-picoline | 50.2 g | N1=C(C=CC=C1)C | C6H7N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 6-chloro-2-pyridinecarbaldehyde | 76.2 g | ClC1=CC=CC(=N1)C=O | C6H4ClNO
solvent | tetrahydrofuran | 1363 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 1363 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(6-Chloropyridin-2-yl)-2-(pyridin-2-yl)ethyl alcohol | 38.7 g | ClC1=CC=CC(=N1)C(CC1=NC=CC=C1)O | C12H11ClN2O
